US09079866B2
1-[3-Fluoro-2′-(pyrrolidin-1-ylsulfonyl)biphenyl-4-yl]ethanone
The title compound was prepared using conditions analogous to those described in Example 1 using (4-acetyl-3-fluorophenyl)boronic acid and 1-(2-bromo-phenylsulfonyl)pyrrolidine. MS (ESI): mass calcd. for C18H18FNO3S, 347.10; m/z found, 348.0 [M+H]+. 1H NMR (500 MHz, CDCl3) δ 8.10 (dd, J=7.9, 1.3, 1H), 7.95-7.89 (m, 1H), 7.63-7.58 (m, 1H), 7.58-7.51 (m, 1H), 7.30-7.27 (m, 2H), 7.26-7.25 (m, 1H), 2.98-2.90 (m, 4H), 2.69 (d, J=4.9, 3H), 1.76-1.67 (m, 4H).

reactant | (4-acetyl-3-fluorophenyl)boronic acid | C(C)(=O)C1=C(C=C(C=C1)B(O)O)F | C8H8BFO3
reactant | 1-(2-bromo-phenylsulfonyl)pyrrolidine | BrC1=C(C=CC=C1)S(=O)(=O)N1CCCC1 | C10H12BrNO2S
product | 1-[3-Fluoro-2′-(pyrrolidin-1-ylsulfonyl)biphenyl-4-yl]ethanone | FC=1C=C(C=CC1C(C)=O)C1=C(C=CC=C1)S(=O)(=O)N1CCCC1 | C18H18FNO3S
